US07358370B2
2-[3-(2-Dimethylamino-ethoxy)-4-methoxy-phenylamino]-4-(3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indazol-1-yl)-benzamide (Compound 27)
2-Bromo-4-(6,6-dimethyl-4-oxo-3-methyl-4,5,6,7-tetrahydro-indazol-1-yl)-benzonitrile (100 mg, 0.28 mmol), Pd(OAc)2 (3.1 mg, 5 mol %), DPPF (15.5 mg, 10 mol %) and NaOtBu (52 mg, 0.56 mmol) were added to a microwave vial. Toluene (0.5 mL) and 3-(2-dimethylamino-ethoxy)-4-methoxy-phenylamine (118 mg, 2 mol eq) were added and the vial was evacuated and back-filled with N2. The reaction mixture was heated at 130° C. for 30 min (microwave). The reaction mixture was filtered and the solids washed with CH2Cl2. The product nitrile was purified using flash chromatography eluting with CH2Cl2 and methanol. This nitrile (32 mg, 0.66 mmol) was dissolved in ethanol (0.8 mL) and DMSO (0.2 mL) to which NaOH (5 N, 26 μL, 2 eq) and H2O2 (excess, 30% solution in H2O) was added. The reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was washed with H2O and extracted with EtOAc. The product was purified using flash chromatography eluting with CH2Cl2 and methanol. The title compound was obtained as a yellow solid (10 mg, 30%); LC/MS (m/z): M+H=506.5.

reactant | 2-Bromo-4-(6,6-dimethyl-4-oxo-3-methyl-4,5,6,7-tetrahydro-indazol-1-yl)-benzonitrile | 0.28 mmol, 100 mg | BrC1=C(C#N)C=CC(=C1)N1N=C(C=2C(CC(CC12)(C)C)=O)C | C17H16BrN3O
reactant | NaOtBu | 0.56 mmol, 52 mg | CC(C)(C)[O-].[Na+]
reactant | 3-(2-dimethylamino-ethoxy)-4-methoxy-phenylamine | 2 mol, 118 mg | CN(CCOC=1C=C(C=CC1OC)N)C | C11H18N2O2
reactant | NaOH | 5 N, 26 μL, 2 eq | [OH-].[Na+]
reactant | H2O2 | OO | H2O2
solvent | ethanol | 0.8 mL | C(C)O | C2H6O
catalyst | Pd(OAc)2 | 3.1 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | DPPF | 15.5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | DMSO | 0.2 mL | CS(=O)C | C2H6OS
solvent | Toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[3-(2-Dimethylamino-ethoxy)-4-methoxy-phenylamino]-4-(3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indazol-1-yl)-benzamide | CN(CCOC=1C=C(C=CC1OC)NC1=C(C(=O)N)C=CC(=C1)N1N=C(C=2C(CC(CC12)(C)C)=O)C)C | C28H35N5O4
